US09108923B2
For (E)-N-methacryloylbut-2-enamide (BRD7991; Cpd. 76).
Experimental Procedure: To a suspension of (E)-but-2-enamide (1.0 equiv) in 3.5 mL THF was added n-BuLi in hexanes (2.5 M,1.2 equiv) slowly at −78° C. The reaction mixture was warmed up to room temperature and stirred for 8 h before a solution of methacryloyl chloride (2.0 equiv) in 2 mL of THF was added drop wise at −78° C. The reaction mixture was allowed to warm up to rt overnight. The crude reaction mixture was diluted with ethyl acetate, and quenched with cold NH4Cl(aq, sat), and the organic layer separated. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine and dried over MgSO4. After filtration and evaporation under reduced pressure, the residue was purified by column chromatography to yield the pure compound.

reactant | (E)-but-2-enamide | 1.0 equiv | C(\C=C\C)(=O)N | C4H7NO
reactant | n-BuLi | [Li]CCCC
reactant | methacryloyl chloride | 2.0 equiv | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-methacryloylbut-2-enamide | C(C(=C)C)(=O)NC(\C=C\C)=O | C8H11NO2
